US06911445B2
[2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methanol
3.03 g (12.6 mmole) of 1-[(3S)-5-hydroxy-3-(hydroxymethyl)-2,3-dihydro-1,4-benzodioxin-6-yl]-1-ethanone oxime was dissolved in a mixture of 1:3 N,N-dimethylacetamide/acetonitrile (100 mL). The solution was cooled in an ice/water bath and a solution of phosphorus oxychloride (1.26 mL, 35 mmole) in 1:3 N,N-dimethylacetamide/acetonitrile (30 mL) was added. The reaction mixture was stirred under nitrogen over a period of 48 hours. It was then added to an ice cold, saturated solution of sodium acetate, extracted with ethyl acetate, dried over magnesium sulfate, filtered and evaporated in vacuum. The resulting crude oil was column chromatographed on silica gel with 60% hexane/ethyl acetate to remove impurities and the product eluted with 40% hexane/ethyl acetate. After evaporation of the solvent in vacuum, 2.08 g (75%) of the (S)-enantiomer of the title compound was obtained as a white solid, m.p. 120° C. MS (ESI) m/z 222 (M+H)+.

reactant | 1-[(3S)-5-hydroxy-3-(hydroxymethyl)-2,3-dihydro-1,4-benzodioxin-6-yl]-1-ethanone oxime | 12.6 mmole, 3.03 g | OC1=C(C=CC=2OC[C@@H](OC21)CO)C(C)=NO | C11H13NO5
reactant | phosphorus oxychloride | 35 mmole, 1.26 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | N,N-dimethylacetamide acetonitrile | 100 mL | CN(C(C)=O)C.C(C)#N
reactant | N,N-dimethylacetamide acetonitrile | 30 mL | CN(C(C)=O)C.C(C)#N
product | [2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methanol | CC=1OC2=C(N1)C=CC1=C2OC(CO1)CO | C11H11NO4
